US06329381B1
6-Amino-9-benzyl-8-bromo-2-(2-hydroxyethoxy)purine
6-Amino-9-benzyl-2-(2-methoxyethoxy)purine (100 mg, 0.36 mmol) and bromine (0.25 ml) were dissolved in methylene chloride (100 ml). The solution was stirred at room temperature for 6 hours. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, dried on sodium sulfate and the solvent was removed in vacuo. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (55 mg, yield 43%).

reactant | 6-Amino-9-benzyl-2-(2-methoxyethoxy)purine | 0.36 mmol, 100 mg | NC1=C2N=CN(C2=NC(=N1)OCCOC)CC1=CC=CC=C1 | C15H17N5O2
reactant | bromine | 0.25 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-(2-hydroxyethoxy)purine | 55 mg, yield 43% | NC1=C2N=C(N(C2=NC(=N1)OCCO)CC1=CC=CC=C1)Br | C14H14BrN5O2
